US05138057
A mixture of 2-amino-6,8-dichloropurine (2.04 g), 6,6-dimethyl-5,7-dioxaspiro[2.5]octane-4,8-dione (1.73 g) and anhydrous potassium carbonate (2.12 g) in N,N-dimethylformamide (40 ml) was stirred at room temperature for 18 hours under dry nitrogen. The solvent was evaporated and the residue dissolved in water (60 ml) and acidified from pH 10 to pH 4 with dilute hydrochloric acid. The yellow precipitate was filtered off, washed with water and dried to give 2-amino-6,8-dichloro-9-[1-(2,2-dimethyl-1,3-dioxane4,6-dione-5-yl)eth-2-yl]purine (2.2 g, 50%). T.1.c. r.f. 0.65 (25% methanol-dichloromethane).

reactant | 2-amino-6,8-dichloropurine | 2.04 g | NC1=NC(=C2NC(=NC2=N1)Cl)Cl | C5H3Cl2N5
reactant | 6,6-dimethyl-5,7-dioxaspiro[2.5]octane-4,8-dione | 1.73 g | CC1(OC(C2(CC2)C(O1)=O)=O)C | C8H10O4
reactant | potassium carbonate | 2.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-amino-6,8-dichloro-9-[1-(2,2-dimethyl-1,3-dioxane4,6-dione-5-yl)eth-2-yl]purine | 2.2 g, 50% | NC1=NC(=C2N=C(N(C2=N1)CCC1C(OC(OC1=O)(C)C)=O)Cl)Cl | C13H13Cl2N5O4
